US07064124B2
N-(2-Methoxypyridin-3-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide
3-Amino-2-methoxypyridine (0.149 g, 1.203 mmol), triethylamine (0.122 g, 1.203 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.203 g, 1.203 mmol) were added to a methylene chloride solution (150 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.300 g, 0.802 mmol) and the resulting solution was stirred at room temperature for 4 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=50:1) to obtain the titled compound (0.250 g, 0.520 mmol, 65%).

reactant | 3-Amino-2-methoxypyridine | 1.203 mmol, 0.149 g | NC=1C(=NC=CC1)OC | C6H8N2O
reactant | triethylamine | 1.203 mmol, 0.122 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 1.203 mmol, 0.203 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.802 mmol, 0.300 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Methoxypyridin-3-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide | 0.520 mmol, 0.250 g, 65% | COC1=NC=CC=C1NC(C1=C(C=CC(=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)OC(C)=O)=O | C25H24N2O8
